US09290490B2
To a solution of thiazole (740 mg, 8.72 mmol) in THF (87 mL) at −78° C. was added n-BuLi (2.5 M in hexanes, 3.84 mL, 9.59 mmol) and the solution was stirred for 30 minutes at −78° C. A solution of benzyl (trans-4-acetylcyclohexyl)carbamate (1.20 g, 4.36 mmol) in THF (5 mL) was added and the reaction was stirred for one hour at −78° C. The reaction was diluted with water and warmed to room temperature. The mixture was extracted with ethyl acetate and the organic layer was separated, dried over magnesium sulfate, filtered and concentrated in vacuo. Column chromatography on silica gel (0-10% methanol gradient in dichloromethane) afforded benzyl {trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexyl}carbamate MS ESI calc'd. for C19H25N2O3S [M+H]+ 361. found 361. 1H NMR (500 MHz, DMSO-d6) δ 7.67 (d, J=3.2, 1H), 7.51 (d, J=3.2, 1H), 7.40-7.20 (m, 4H), 7.12 (d, J=8.0, 1H), 5.70 (s, 1H), 4.95 (s, 2H), 3.19-2.98 (m, 1H), 1.88-1.66 (m, 3H), 1.65-1.49 (m, 1H), 1.47-1.33 (m, 4H), 1.28-1.14 (m, 1H), 1.14-0.89 (m, 3H).

reactant | thiazole | 8.72 mmol, 740 mg | S1C=NC=C1 | C3H3NS
reactant | n-BuLi | 9.59 mmol, 2.5 M, 3.84 mL | [Li]CCCC
reactant | benzyl (trans-4-acetylcyclohexyl)carbamate | 4.36 mmol, 1.20 g | C(C)(=O)[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O | C16H21NO3
solvent | THF | 87 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | benzyl {trans-4-[1-hydroxy-1-(1,3-thiazol-2-yl)ethyl]cyclohexyl}carbamate | OC(C)(C=1SC=CN1)[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O | C19H24N2O3S
